US07297795B2
To a suspension of 2-cyano-N-(2,4-dichloro-5-methoxyphenyl)acetamide (738 mg, 2.84 mmol) in 100 mL of isopropanol was added 3-(3-chloropropoxy)-4-methoxyaniline (611 mg, 2.84 mmol). This mixture was heated to reflux and triethylorthoformate (3.0 mL, 18.0 mmol) was added dropwise. The reaction mixture was heated at reflux overnight. The mixture was filtered while still warm and the collected white solid was washed with isopropanol to give 610 mg of 3-(3-chloropropoxy)-4-methoxyanilino-N-(2,4-dichloro-5-methoxyphenyl)-2-cyano-2-propenamide, mp 185-192° C.; MS (ES) m/z 482.1, 484.2, 486.0 (M−H)−

reactant | 2-cyano-N-(2,4-dichloro-5-methoxyphenyl)acetamide | 2.84 mmol, 738 mg | C(#N)CC(=O)NC1=C(C=C(C(=C1)OC)Cl)Cl | C10H8Cl2N2O2
reactant | 3-(3-chloropropoxy)-4-methoxyaniline | 2.84 mmol, 611 mg | ClCCCOC=1C=C(N)C=CC1OC | C10H14ClNO2
reactant | triethylorthoformate | 18.0 mmol, 3.0 mL | C(C)OC(OCC)OCC | C7H16O3
solvent | isopropanol | 100 mL | C(C)(C)O | C3H8O
product | 3-(3-chloropropoxy)-4-methoxyanilino-N-(2,4-dichloro-5-methoxyphenyl)-2-cyano-2-propenamide | 610 mg | ClCCCOC=1C=C(NC=C(C(=O)NC2=C(C=C(C(=C2)OC)Cl)Cl)C#N)C=CC1OC | C21H20Cl3N3O4
